US07935688B2
(1) Synthesis of [4′-(1-{4-[3-(t-butyl-dimethyl-silanyloxy)-4,4-dimethyl-pentyl]-3-methyl-phenyl}-1-ethyl-propyl)-2′-methyl-biphenyl-3-yl]-acetic Acid Methyl Ester
N,N-Dimethylformamide (0.7 mL) was added to 2-[4-(1-{4-[3-(t-butyl-dimethyl-silanyloxy)-4,4-dimethyl-pentyl]-3-methyl-phenyl}-1-ethyl-propyl)-2-methyl-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (Example 24-(1); 70 mg, 0.116 mmol), (3-bromo-phenyl)acetic acid methyl ester (Tetrahedron Letters 44 (2003) 331-334; 53 mg, 0.232 mmol), tetrakis(triphenylphosphine)palladium (0) (26.8 mg, 0.023 mmol) and potassium phosphate (63.9 mg, 0.30 mmol). The mixture was stirred with microwave heating at 140° C. for seven minutes in a nitrogen atmosphere. The reaction mixture was concentrated under reduced pressure. The residue was purified by preparative TLC (hexane/ethyl acetate=10/1) to give the title compound (36 mg, 50%).

reactant | 2-[4-(1-{4-[3-(t-butyl-dimethyl-silanyloxy)-4,4-dimethyl-pentyl]-3-methyl-phenyl}-1-ethyl-propyl)-2-methyl-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.116 mmol, 70 mg | C(C)(C)(C)[Si](OC(CCC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C)C(C)(C)C)(C)C | C38H63BO3Si
reactant | (3-bromo-phenyl)acetic acid methyl ester | 0.232 mmol, 53 mg | COC(CC1=CC(=CC=C1)Br)=O | C9H9BrO2
reactant | potassium phosphate | 0.30 mmol, 63.9 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.023 mmol, 26.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-Dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | [4′-(1-{4-[3-(t-butyl-dimethyl-silanyloxy)-4,4-dimethyl-pentyl]-3-methyl-phenyl}-1-ethyl-propyl)-2′-methyl-biphenyl-3-yl]-acetic Acid Methyl Ester | 36 mg, 50% | COC(CC=1C=C(C=CC1)C1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)CCC(C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)C)=O | C41H60O3Si
